US07037935B2
A suspension of 300 mg (0.92 mmol) of (E)-1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid in 5 ml of dichloromethane is treated with 549 mg (4.6 mmol) of thionylchloride and heated to 45° C. for 18 hours. Thereafter, the reaction mixture is evaporated to dryness under reduced pressure. The crude acid chloride obtained is dissolved in 5 ml of dry dichloromethane, then, at RT, 0.58 ml (4.61 mmol) of a solution of methylamine in ethanol (33%) is added and stirring continued for 3 hours. For the working-up, the reaction mixture is treated with water and dichloromethane. The organic layer is separated, dried over magnesium sulfate and evaporated. For purification, the crude product is chromatographed on silica gel using a 95:5-mixture of dichloromethane and methanol as the eluent. After crystallization from a mixture of dichloromethane and ether, there are obtained 207 mg (66% of theory) of (RS)-(E)-1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid methylamide as a light brown solid; MS: m/e=339 (M+H)+.

reactant | (E)-1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid | 0.92 mmol, 300 mg | FC=1C=C(C=CC1)/C=C/C1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C19H16FNO3
reactant | thionylchloride | 4.6 mmol, 549 mg | S(=O)(Cl)Cl | Cl2OS
reactant | methylamine | CN | CH5N
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
product | (RS)-(E)-1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid methylamide | 207 mg, 66% | CNC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)\C=C\C1=CC(=CC=C1)F | C20H19FN2O2
